US09388189B2
(S)-Benzyl 4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylate
(S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (56 mg, 0.21 mmol) was treated with benzyl 4-chloro-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylate (70 mg, 0.24 mmol), cesium fluoride (14 mg, 0.09 mmol), N,N-diisopropylethylamine (163 μl, 0.94 mol) according to Preparation 13 to give 27 mg (25% yield) of the title compound as a white solid.

reactant | (S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.21 mmol, 56 mg | N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C15H16N4O
reactant | benzyl 4-chloro-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylate | 0.24 mmol, 70 mg | ClC=1C2=C(N=CN1)NC=C2C(=O)OCC2=CC=CC=C2 | C14H10ClN3O2
reactant | cesium fluoride | 0.09 mmol, 14 mg | [F-].[Cs+]
reactant | N,N-diisopropylethylamine | 0.94 mol, 163 μl | C(C)(C)N(C(C)C)CC | C8H19N
product | (S)-Benzyl 4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylate | 27 mg, 25% yield | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)NC=C1C(=O)OCC1=CC=CC=C1 | C29H25N7O3
